US05236952
0.33 g of 5'-cyano-3',4'-diacetoxyacetophenone dissolved in 3.3 ml of methanol is treated with 2.7 ml of 1.0N sodium hydroxide solution and the reaction mixture is stirred at 23° for 45 minutes. The mixture is subsequently acidified with 2N hydrochloric acid, diluted with 5 ml of saturated sodium chloride solution and extracted twice with 30 ml of ethyl acetate each time. The combined ethyl acetate phases are dried over sodium sulfate and evaporated. The residue is recrystallized from toluene/acetonitrile. There is obtained 5'-cyano-3',4'-dihydroxyacetophenone as brownish crystals which decompose which decompose above 215°.

reactant | 5'-cyano-3',4'-diacetoxyacetophenone | 0.33 g | C(#N)C=1C(=C(C=C(C1)C(C)=O)OC(C)=O)OC(C)=O | C13H11NO5
reactant | sodium hydroxide | 1.0N, 2.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 3.3 ml | CO | CH4O
solvent | sodium chloride | 5 ml | [Cl-].[Na+]
product | 5'-cyano-3',4'-dihydroxyacetophenone | C(#N)C=1C(=C(C=C(C1)C(C)=O)O)O | C9H7NO3
